US08877408B2
Ethyl hexylcarbamate
In a 250 ml round-bottomed flask, 0.02 g of Desmorapid Z (dibutyltin dilaurate, Bayer MaterialScience AG, Leverkusen, Germany), 36.7 g of n-hexyl isocyanate were initially introduced and heated to 60° C. Thereafter, 13.3 g of ethanol were added dropwise and the mixture was further kept at 60° C. until the isocyanate content had fallen below 0.1%. Thereafter, cooling was effected and the product was obtained as a clear liquid.

reactant | Desmorapid | 0.02 g | CN(C)CCCN1CN(CN(C1)CCCN(C)C)CCCN(C)C | C18H42N6
reactant | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | n-hexyl isocyanate | 36.7 g | C(CCCCC)N=C=O | C7H13NO
reactant | isocyanate | [N-]=C=O
solvent | ethanol | 13.3 g | C(C)O | C2H6O
product | Ethyl hexylcarbamate | C(CCCCC)NC(OCC)=O | C9H19NO2
